US05106839
4.47 ml of chloroformic acid ethyl ester were added at room temperature to a solution of 4.17 g of 3-chloro-7,8,9,10-tetrahydro-8-phenylmethyl-6H-dibenzo[b,j][1,4,7]dioxaazacycloundecine in 390 ml of toluene. The mixture was heated to reflux overnight, and after cooling shaken with excess of 1N hydrochloric acid. The toluene layer was separated and the acid aqueous layer extracted with diethyl ether. The combined organic extracts were shaken with 1N hydrochloric acid and water, after which the organic layer was concentrated in vacuo and dried azeotropically to yield 3.78 g (95%) of ethyl 3-chloro-7,8,9,10-tetrahydro-6H-dibenzo[b,j][1,4,7]dioxaazacycloundecine-8-carboxylate. Rf 0.6 (silica; hexane-acetone 8:2).

reactant | chloroformic acid ethyl ester | 4.47 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | 3-chloro-7,8,9,10-tetrahydro-8-phenylmethyl-6H-dibenzo[b,j][1,4,7]dioxaazacycloundecine | 4.17 g | ClC1=CC2=C(OC3=C(CCN(CCO2)CC2=CC=CC=C2)C=CC=C3)C=C1 | C23H22ClNO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | toluene | 390 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-chloro-7,8,9,10-tetrahydro-6H-dibenzo[b,j][1,4,7]dioxaazacycloundecine-8-carboxylate | 3.78 g, 95% | ClC1=CC2=C(OC3=C(CCN(CCO2)C(=O)OCC)C=CC=C3)C=C1 | C19H20ClNO4
